*double balanced mixer

Vdd 101 0 dc 3
Rload1 101 102 300
Rload2 101 103 300

* mosfets
M1 102 104 107 n 30e-6 .25e-6 2
M2 103 106 107 n 30e-6 .25e-6 2
M3 102 106 108 n 30e-6 .25e-6 2
M4 103 104 108 n 30e-6 .25e-6 2

M5 107 110 114 n 30e-6 .25e-6 2
M6 108 111 115 n 30e-6 .25e-6 2

*source degeneration
Lde1 114 129 1e-9
Rloss1 129 109 1.2
Lde2 115 139 1e-9
Rloss2 139 109 1.2

* LC tank 
Lde3 109 149 3e-9
Rloss3 149 0 3.6
Cde  109 0 9.2e-12 

*input
Vlo+ 154 0 SIN 1 0.6 900e6 0 
Rlo1 154 104 50
Vlo- 164 0 SIN 1 0.6 900e6 180 
Rlo2 164 106 50

Vrf1+ 112 212 SIN 0.6 0.01 800e6 180
Vrf2+ 212 0 SIN 0  0.01 600e6 180
Vrf1- 113 213 SIN 0.6  0.01 800e6 0
Vrf2- 213 0 SIN 0 0.01 600e6 0
Rs1 112 110 25
Rs2 113 111 25

* level 1 models

.MODEL 1 VT -0.58281 MU 1.224952e-2 COX 6.058e-3 LAMBDA 0.05 CJ0 4.0e-14
.MODEL 2 VT 0.386 MU 3.0238e-2 COX 6.058e-3 LAMBDA 0.05 CJ0 4.0e-14

.TRAN 1e-11 4e-9
*.hb 100e6 30
.plotnv  102
.plotnv  103 
*.plotnv  112 
*.plotnv  113 
*.plotnv  154 
*.plotnv  164

*.probe hb V(102) V(103) 
*.probe hb V(102) V(103) V(107)
.end